US04427441
Preparation of N-[2-Bromo-5-(2-nitro-4-bromophenoxy)benzoyl]-4-nitrophthalimide
The N-potassium salt of 4-nitrophthalimide (0.025 mole) dissolved in dimethylformamide (50 ml) and 2-bromo-5-(2-nitro-4-bromophenoxy)benzoyl chloride (0.025 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is stirred at room temperature for a period of about 8 hours. After this time the mixture is poured into water (150 ml) and is extracted twice with toluene. The toluene extracts are combined and stripped of solvent leaving a solid residue. This residue is recrystallized to yield the desired product N-[2-bromo-5-(2-nitro-4-bromophenoxy)benzoyl]-4-nitrophthalimide.

reactant | 4-nitrophthalimide | 0.025 mole | [N+](=O)([O-])C=1C=C2C(C(=O)NC2=O)=CC1 | C8H4N2O4
reactant | 2-bromo-5-(2-nitro-4-bromophenoxy)benzoyl chloride | 0.025 mole | BrC1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C13H6Br2ClNO4
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-bromo-5-(2-nitro-4-bromophenoxy)benzoyl]-4-nitrophthalimide | BrC1=C(C(=O)N2C(C=3C(C2=O)=CC(=CC3)[N+](=O)[O-])=O)C=C(C=C1)OC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C21H9Br2N3O8
